US07396943B2
Part D: 5-{4-[(3-Methylbutylamino)methyl]phenoxy}thiophene-2-carboxamide
Place 5-(4-formylphenoxy)thiophene-2-carboxamide (0.235 g, 0.948 mmol), isoamylamine (0.087 g, 0.996 mmol) and 3 Å molecular sieves in a vial. Add methanol (4.7 mL), cap and stir overnight. Add NaBH4 (0.0359 g, 0.948 mmol) and stir until the gasses stop evolving. Load the reaction mixture directly onto a 25 g ISCO® pre-load column. Dry the column in a vacuum oven at room temperature. Purify by eluting through a 40 g ISCO® column with 5% to 20% (2.0 M NH3 in methanol) in ethyl acetate over 45 minutes to give the title compound: TOF MS ES+ 319.1 (M+H)+, HRMS calcd for C17H23N2O2S 319.1480 (M+H)+, found 319.1488, time 0.38 min; HPLC [YMC-Pro pack C-18 (150×4.6 mm, S-5 microm), 0.05% TFA/acetonitrile in 0.05% TFA/water at 1.0 mL/min, 10-20% over 5 min, 20-95% over 18], tR=10.8 min, 100% purity.

reactant | 5-(4-formylphenoxy)thiophene-2-carboxamide | 0.948 mmol, 0.235 g | C(=O)C1=CC=C(OC2=CC=C(S2)C(=O)N)C=C1 | C12H9NO3S
reactant | isoamylamine | 0.996 mmol, 0.087 g | C(CC(C)C)N | C5H13N
reactant | NaBH4 | 0.948 mmol, 0.0359 g | [BH4-].[Na+]
solvent | methanol | 4.7 mL | CO | CH4O
product | 5-{4-[(3-Methylbutylamino)methyl]phenoxy}thiophene-2-carboxamide | CC(CCNCC1=CC=C(OC2=CC=C(S2)C(=O)N)C=C1)C | C17H22N2O2S
